US06599917B1
b) (3R)-3-[2-Benzyl-5-chloro-6-[(3R,4R)-3-hydroxy-4-methoxypyrrolidine-1-yl]-3pyridyl]ethynyl-3-quinuclidinol
A mixture of 132 mg of 2-benzyl-5-chloro-3-iodo-6-[(3R,4R)-3-hydroxy-4-methoxypyrrolidine-1-yl]pyridine, 49.4 mg of (3R)-3-ethynyl-3-quinuclidinol, 17.2 mg of tetrakis(triphenylphosphine)palladium(0), 11.3 mg of cuprous iodide, 124 μl of triethylamine and 1.5 ml of methanol was heated under reflux for one hour in a nitrogen atmosphere. After cooling as it was, water and ethyl acetate were added to the reaction mixture. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was removed. The residue was subjected to NH-silica gel column chromatography using 3% methanol/ethyl acetate, to give 125 mg of the target compound.

reactant | 2-benzyl-5-chloro-3-iodo-6-[(3R,4R)-3-hydroxy-4-methoxypyrrolidine-1-yl]pyridine | 132 mg | C(C1=CC=CC=C1)C1=NC(=C(C=C1I)Cl)N1C[C@H]([C@@H](C1)OC)O | C17H18ClIN2O2
reactant | (3R)-3-ethynyl-3-quinuclidinol | 49.4 mg | C(#C)[C@]1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 124 μl | C(C)N(CC)CC | C6H15N
reactant | methanol | 1.5 ml | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 17.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (3R)-3-[2-Benzyl-5-chloro-6-[(3R,4R)-3-hydroxy-4-methoxypyrrolidine-1-yl]-3pyridyl]ethynyl-3-quinuclidinol | 125 mg | C(C1=CC=CC=C1)C1=NC(=C(C=C1C#C[C@]1(CN2CCC1CC2)O)Cl)N2C[C@H]([C@@H](C2)OC)O | C26H30ClN3O3
